US08895745B2
e) 1-[3-(7-Oxazol-5-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea
A solution of 1-[3-(7-Formyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea (15 mg, 0.04 mmol), potassium carbonate (11 mg, 0.08 mmol) and TosMic (9.7 mg, 0.05 mmol) were heated in MeOH (2 ml) at 80° C. for 3 h. The reaction mixture was purified using a C18 SPE cartridge, washing with water and eluting the desired compound with MeOH. Removal of the solvent in vacuo afforded the title compound (6 mg). MS: [M+H]+=402

reactant | 1-[3-(7-Formyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea | 0.04 mmol, 15 mg | C(=O)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C17H13F3N4O2
reactant | potassium carbonate | 0.08 mmol, 11 mg | C([O-])([O-])=O.[K+].[K+]
reactant | TosMic | 0.05 mmol, 9.7 mg | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
solvent | MeOH | 2 ml | CO | CH4O
product | 1-[3-(7-Oxazol-5-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea | 6 mg | O1C=NC=C1C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C19H14F3N5O2
